US05556990
1-(3-Dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride (0.833 g, 4.34 mmol) followed by 1-hydroxybenzotriazole hydrate (0.66 g, 4.35 mmol), 3-hydroxy-3,4-bis (ethoxycarbonyl)butanoic acid (1.08 g, 4.35 mmol) in THF (50 ml) and triethylamine is added to a stirred solution of 1-amino-2-(4-bromophenyl) propan-2-ol (Preparation 19, 1 g, 4.35 mmol) in THF (45 ml). The reaction mixture is stirred at ambient temperature for 18 hrs, diluted with CH2Cl2 and washed with saturated NaHCO3 solution followed by saturated NaCl solution. The organic layer is dried over MgSO4, concentrated and purified by flash chromatography (2% MeOH/CH2Cl2) to give 1-[2-(4-bromophenyl)-2-hydroxy-propyl]-3-hydroxy-2,5-dioxopyrrolidin-3-ylacetic acid, ethyl ester (0.5 g, 28% yield); MS (FAB+ion) m/z 414/416 (M+H)+ and 4-[2-(4-bromophenyl)-2-hydroxypropylcarbamoyl]-3-hydroxy-3-methyl butyric acid ethyl ester (0.94 g, 50% yield); MS (FAB+ion) m/z 460/462 (M+H)+.

reactant | 1-(3-Dimethylaminopropyl)-3-ethyl carbodiimide hydrochloride | 4.34 mmol, 0.833 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 4.35 mmol, 0.66 g | O.ON1N=NC2=C1C=CC=C2
reactant | 3-hydroxy-3,4-bis (ethoxycarbonyl)butanoic acid | 4.35 mmol, 1.08 g | OC(CC(=O)O)(CC(=O)OCC)C(=O)OCC | C10H16O7
reactant | 1-amino-2-(4-bromophenyl) propan-2-ol | 4.35 mmol, 1 g | NCC(C)(O)C1=CC=C(C=C1)Br | C9H12BrNO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | 45 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 1-[2-(4-bromophenyl)-2-hydroxy-propyl]-3-hydroxy-2,5-dioxopyrrolidin-3-ylacetic acid, ethyl ester | 0.5 g, 28% yield | BrC1=CC=C(C=C1)C(CN1C(C(CC1=O)(O)CC(=O)OCC)=O)(C)O | C17H20BrNO6
